US20010023249A1
(S)-Azepane-1-carboxylic acid (1-{4-[(4-amino-phenyl)-(3-methyl-butyl)-amino]-piperidine-1-carbonyl}-3-methyl-butyl)-amide
[(S)-{4-[(1-{2-[(Azepane-1-carbonyl)-amino]-4-methyl-pentanoyl}-piperidin-4-yl)-(3-methyl-butyl)-amino]-phenyl}-carbamic acid benzyl ester] (Example 34, 2.75 g, 4.34 mmol) was dissolved in THF/MeOH (50 mL, 1:1), treated with 20% Pd/C (0.26 g), and shaken under H2 (49 psi) for 1.25 hours. The reaction was filtered through Celite and concentrated to give 2.01 g (93%) of the desired product.

reactant | (S)-{4-[(1-{2-[(Azepane-1-carbonyl)-amino]-4-methyl-pentanoyl}-piperidin-4-yl)-(3-methyl-butyl)-amino]-phenyl}-carbamic acid benzyl ester | C(C1=CC=CC=C1)OC(NC1=CC=C(C=C1)N(CCC(C)C)C1CCN(CC1)C([C@H](CC(C)C)NC(=O)N1CCCCCC1)=O)=O | C37H55N5O4
solvent | THF MeOH | 50 mL | C1CCOC1.CO
catalyst | Pd/C | 0.26 g | [Pd] | Pd
product | (S)-Azepane-1-carboxylic acid (1-{4-[(4-amino-phenyl)-(3-methyl-butyl)-amino]-piperidine-1-carbonyl}-3-methyl-butyl)-amide | 2.01 g, 93% | NC1=CC=C(C=C1)N(C1CCN(CC1)C(=O)[C@H](CC(C)C)NC(=O)N1CCCCCC1)CCC(C)C | C29H49N5O2
